US09428499B2
Step-b: Synthesis of (4-hydroxypiperidin-1-yl)(3-nitrophenyl)methanone
To a stirred solution of 1-(3-nitrobenzoyl)piperidin-4-one (1.5 g, 6.04 mmol) in THF: Methanol (20 mL, 1:1), was added sodium borohydride (0.229 g, 6.04 mmol) at room temp. Reaction mixture was stirred at room temperature for 30 min. and diluted with water (20.0 ml), extracted with ethyl acetate (3×30.0 ml). Combined organic layer was dried over sodium sulphate and the solvents were removed under vacuum to obtain the title compound. (1 gm).

reactant | 1-(3-nitrobenzoyl)piperidin-4-one | 6.04 mmol, 1.5 g | [N+](=O)([O-])C=1C=C(C(=O)N2CCC(CC2)=O)C=CC1 | C12H12N2O4
reactant | Methanol | 20 mL | CO | CH4O
reactant | sodium borohydride | 6.04 mmol, 0.229 g | [BH4-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 20.0 ml | O | H2O
product | (4-hydroxypiperidin-1-yl)(3-nitrophenyl)methanone | OC1CCN(CC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C12H14N2O4
